US03962321
A 500 ml flask with a reflux condenser, mechanical stirrer and a dropping funnel, and protected from moisture with a drying tube is charged with LiAlH4 (6.1 g, 0.16 mole) and 200 ml ether. A solution of trans-2-nonenoic acid (7.8 g, 0.05 mole) in 25 ml ether is added at a rate to maintain refluxing. Refluxing is continued for 1 hour and the mixture cooled. Exess reagent is destroyed by the addition of ethyl acetate (5 ml) followed by acidification with 5M HCl. The organic layer is separated, washed with water, dried and distilled under vacuum to give trans-2-nonenol.

reactant | LiAlH4 | 0.16 mole, 6.1 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | trans-2-nonenoic acid | 0.05 mole, 7.8 g | C(\C=C\CCCCCC)(=O)O | C9H16O2
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | trans-2-nonenol | C(\C=C\CCCCCC)O | C9H18O
